US05990142
8B Ethyl 2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxylate
Following the process described in example 3 (point B), starting from ethyl 2-trifluoromethanesulfonyloxymethyl-2,3-dihydrobenzofuran-5-carboxylate and 2-bromoethylbenzene, the title compound was prepared, which was purified by chromatography through a silica gel column, eluting with n-hexane:ethyl acetate, 95:5 (75% yield).

reactant | ethyl 2-trifluoromethanesulfonyloxymethyl-2,3-dihydrobenzofuran-5-carboxylate | FC(S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2)C(=O)OCC)(F)F | C13H13F3O6S
reactant | 2-bromoethylbenzene | BrCCC1=CC=CC=C1 | C8H9Br
product | Ethyl 2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxylate | 75% yield | C1(=CC=CC=C1)CCCC1OC2=C(C1)C=C(C=C2)C(=O)OCC | C20H22O3
